US04029674
By the procedure of Example 29, allyl bromide is reacted with 5-methyl-1,3-cyclohexanedione to produce 2-allyl-5-methyl-1,3-cyclohexanedione.

reactant | allyl bromide | C(C=C)Br | C3H5Br
reactant | 5-methyl-1,3-cyclohexanedione | CC1CC(CC(C1)=O)=O | C7H10O2
product | 2-allyl-5-methyl-1,3-cyclohexanedione | C(C=C)C1C(CC(CC1=O)C)=O | C10H14O2
